US07704995B2
To a solution of methyl 5-bromo-2-chlorobenzoate (0.25 g, 1.01 mmol) in anhydrous dimethylsulfoxide (6 mL) were added bis(pinacolato)diboron (0.28 g, 1.10 mmol), potassium acetate (0.29 g, 3.01 mmol), and [1,1′-bis (diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1, 25 mg, 0.03 mmol). The solution was degassed by passing nitrogen gas for 3-5 min and heated at 80-85° C. for 3 h. Reaction cooled to room temperature and diluted with ethyl acetate (250 mL). The organic layer was washed with saturated aqueous sodium bicarbonate (2×40 mL) and saturated aqueous sodium chloride (50 mL), dried over magnesium sulfate, filtered, and concentrated to afford methyl 2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.12 g, 42% yield) as semi solid. 1H NMR (400 MHz, CDCl3): 8.20 (br d, 1H), 7.80 (dd, 1H), 7.43 (d, 1H), 3.92 (s, 3H), 1.25 (s, 12H); MS (EI) for C14H18N4O2BCl: 297 (MH+).

reactant | methyl 5-bromo-2-chlorobenzoate | 1.01 mmol, 0.25 g | BrC=1C=CC(=C(C(=O)OC)C1)Cl | C8H6BrClO2
reactant | bis(pinacolato)diboron | 1.10 mmol, 0.28 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.01 mmol, 0.29 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.03 mmol, 25 mg | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 6 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.12 g, 42% yield | ClC1=C(C(=O)OC)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H18BClO4
